US09416127B2
(S)-tert-Butyl 2-(4-(1-(5-bromopyridin-2-yl)-1H-1,2,3-triazole-4-carboxamido)phenyl)morpholine-4-carboxylate (63 mg, 0.12 mmol) was dissolved in dioxane (0.5 ml) and a solution of HCl in dioxane (4 M, 0.36 ml, 1.44 mmol) was added. The reaction mixture was stirred for 2 hours at 60° C. After cooling, ether was added, the solid was filtered off, washed with ether and dried in vacuo at 60° C. to afford (S)-1-(5-bromopyridin-2-yl)-N-(4-(morpholin-2-yl)phenyl)-1H-1,2,3-triazole-4-carboxamide hydrochloride (48 mg, 87%) as a white solid. MS (ISP): 429.4 ({79Br} [M−H]+), 431.5 ({81Br} [M−H]+).

reactant | (S)-tert-Butyl 2-(4-(1-(5-bromopyridin-2-yl)-1H-1,2,3-triazole-4-carboxamido)phenyl)morpholine-4-carboxylate | 0.12 mmol, 63 mg | BrC=1C=CC(=NC1)N1N=NC(=C1)C(=O)NC1=CC=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C23H25BrN6O4
reactant | HCl | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.44 mmol, 4 M, 0.36 ml | O1CCOCC1 | C4H8O2
product | (S)-1-(5-bromopyridin-2-yl)-N-(4-(morpholin-2-yl)phenyl)-1H-1,2,3-triazole-4-carboxamide hydrochloride | 48 mg, 87% | Cl.BrC=1C=CC(=NC1)N1N=NC(=C1)C(=O)NC1=CC=C(C=C1)[C@H]1CNCCO1 | InChI=1S/C18H17BrN6O2.ClH/c19-13-3-6-17(21-9-13)25-11-15(23-24-25)18(26)22-14-4-1-12(2-5-14)16-10-20-7-8-27-16;/h1-6,9,11,16,20H,7-8,10H2,(H,22,26);1H/t16-;/m1./s1
